

.include /modelfile_65nm/maxNmaxP.cir
.include anvesh.src.net
.param SUPPLY = 1.32
.param T_CLK = 10n
.param T_RISE_FALL = 60p
.param T_END = 60n
.TEMP -40
.param t_d_delay = 0p

*this is for setup and hold
.step param t_d_delay 200p 0p -2p


.option post    
.probe tran v(*) i(*)

XU1 CLK_IN DUMMY_CKL D_IN GND  Q_OUT VDD detff


VVDD VDD 0 'SUPPLY'
VGND GND 0 0

VCLK CLK_IN GND PULSE(0 SUPPLY 0 T_RISE_FALL T_RISE_FALL 'T_CLK/2 - T_RISE_FALL' T_CLK)
*This is for static power analysis
*VCLK CLK_IN GND 0

* Data Signal: Changes relative to the second clock edge to test setup time.
VD D_IN GND PULSE(0 SUPPLY 'T_CLK + t_d_delay' T_RISE_FALL T_RISE_FALL 'T_CLK/2' '2*T_CLK')
*This is for static power analysis
*VD D_IN GND 0

* ====== A. CLK-to-Q Propagation Delay (Non-Inverting) ======
* This is now t_cq_hl (Clock-to-Q High-to-Low)
.measure tran t_cq_hl
+ TRIG v(CLK_IN) VAL='SUPPLY/2' FALL=2
+ TARG v(Q_OUT) VAL='SUPPLY/2' FALL=1

* For FALLING clock edge -> Q rises (because D was 1)
.measure tran t_cq_lh
+ TRIG v(CLK_IN) VAL='SUPPLY/2' RISE=2
+ TARG v(Q_OUT) VAL='SUPPLY/2' RISE=1

.measure tran d_to_clk
+ TRIG v(D_IN) VAL='SUPPLY/2' RISE=1
+ TARG v(CLK_IN) VAL='SUPPLY/2' RISE=2


*========DELAY=======*
.measure tran CLK_to_Q param='(t_cq_hl+t_cq_lh)/2'



* ====== C. Power Measurement ======
.measure tran P_avg AVG 'V(VDD)*(-I(VVDD))' FROM=0n TO=T_END

.measure tran trise
+ TRIG v(Q_OUT) VAL='0.1*SUPPLY' RISE=1
+ TARG v(Q_OUT) VAL='0.9*SUPPLY' RISE=1

.measure tran tfall
+ TRIG v(Q_OUT) VAL='0.9*SUPPLY' FALL=1
+ TARG v(Q_OUT) VAL='0.1*SUPPLY' FALL=1



* --- 6. Simulation Command ---

.tran 1p T_END

.end
