************************************************************************
* auCdl Netlist:
*
* Library Name:  2B
* Top Cell Name: detff
* View Name:     schematic
* Netlisted on:  Nov  5 20:49:05 2025
************************************************************************

*.BIPOLAR
*.RESI = 2000
*.RESVAL
*.CAPVAL
*.DIOPERI
*.DIOAREA
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: 2B
* Cell Name:    detff
* View Name:    schematic
************************************************************************

.SUBCKT detff CK CKL D Gnd QB Vdd
*.PININFO CK:I D:I Vdd:I CKL:O QB:O Gnd:B
XM36 QB net066 Gnd Gnd nsvtlp w=0.405 l=0.06 nfing=1 sense=0 ngcon=1 m=1
+ accurateFlow=0
XM26 net066 net0102 Gnd Gnd nsvtlp w=0.27 l=0.06 nfing=1 sense=0 ngcon=1 m=1
+ accurateFlow=0
XM25 net038 CKL net0102 Gnd nsvtlp w=0.27 l=0.06 nfing=1 sense=0 ngcon=1 m=1
+ accurateFlow=0
XM23 net028 CKB net0102 Gnd nsvtlp w=0.27 l=0.06 nfing=1 sense=0 ngcon=1 m=1
+ accurateFlow=0
XM33 net046 CKL net062 Gnd nsvtlp w=0.27 l=0.06 nfing=1 sense=0 ngcon=1 m=1
+ accurateFlow=0
XM30 net062 net038 Gnd Gnd nsvtlp w=0.27 l=0.06 nfing=1 sense=0 ngcon=1 m=1
+ accurateFlow=0
XM16 net038 net046 Gnd Gnd nsvtlp w=0.27 l=0.06 nfing=1 sense=0 ngcon=1 m=1
+ accurateFlow=0
XM29 net075 net028 Gnd Gnd nsvtlp w=0.27 l=0.06 nfing=1 sense=0 ngcon=1 m=1
+ accurateFlow=0
XM28 net068 CKB net075 Gnd nsvtlp w=0.27 l=0.06 nfing=1 sense=0 ngcon=1 m=1
+ accurateFlow=0
XM10 net028 net068 Gnd Gnd nsvtlp w=0.27 l=0.06 nfing=1 sense=0 ngcon=1 m=1
+ accurateFlow=0
XM9 net016 CKB net046 Gnd nsvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1
+ accurateFlow=0
XM8 net016 CKL net068 Gnd nsvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1
+ accurateFlow=0
XM4 net016 D Gnd Gnd nsvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1
+ accurateFlow=0
XM1 CKL CKB Gnd Gnd nsvtlp w=0.27 l=0.06 nfing=1 sense=0 ngcon=1 m=1
+ accurateFlow=0
XM0 CKB CK Gnd Gnd nsvtlp w=0.27 l=0.06 nfing=1 sense=0 ngcon=1 m=1
+ accurateFlow=0
XM37 QB net066 Vdd Vdd psvtlp w=0.81 l=0.06 nfing=1 sense=0 ngcon=1 m=1
+ accurateFlow=0
XM27 net066 net0102 Vdd Vdd psvtlp w=0.54 l=0.06 nfing=1 sense=0 ngcon=1 m=1
+ accurateFlow=0
XM24 net038 CKB net0102 Vdd psvtlp w=0.27 l=0.06 nfing=1 sense=0 ngcon=1 m=1
+ accurateFlow=0
XM22 net028 CKL net0102 Vdd psvtlp w=0.27 l=0.06 nfing=1 sense=0 ngcon=1 m=1
+ accurateFlow=0
XM35 net085 net038 Vdd Vdd psvtlp w=0.54 l=0.06 nfing=1 sense=0 ngcon=1 m=1
+ accurateFlow=0
XM34 net046 CKB net085 Vdd psvtlp w=0.54 l=0.06 nfing=1 sense=0 ngcon=1 m=1
+ accurateFlow=0
XM17 net038 net046 Vdd Vdd psvtlp w=0.54 l=0.06 nfing=1 sense=0 ngcon=1 m=1
+ accurateFlow=0
XM31 net093 net028 Vdd Vdd psvtlp w=0.54 l=0.06 nfing=1 sense=0 ngcon=1 m=1
+ accurateFlow=0
XM32 net068 CKL net093 Vdd psvtlp w=0.54 l=0.06 nfing=1 sense=0 ngcon=1 m=1
+ accurateFlow=0
XM11 net028 net068 Vdd Vdd psvtlp w=0.54 l=0.06 nfing=1 sense=0 ngcon=1 m=1
+ accurateFlow=0
XM7 net016 CKB net068 Vdd psvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1
+ accurateFlow=0
XM6 net016 CKL net046 Vdd psvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1
+ accurateFlow=0
XM5 net016 D Vdd Vdd psvtlp w=0.27 l=0.06 nfing=1 sense=0 ngcon=1 m=1
+ accurateFlow=0
XM3 CKL CKB Vdd Vdd psvtlp w=0.54 l=0.06 nfing=1 sense=0 ngcon=1 m=1
+ accurateFlow=0
XM2 CKB CK Vdd Vdd psvtlp w=0.54 l=0.06 nfing=1 sense=0 ngcon=1 m=1
+ accurateFlow=0
CC0 QB Gnd 20f
.ENDS
